US04508926
4-Bromo-4'-hydroxy-α-ethyl-benzhydrol
To 400 ml. of a 0.5 molar ethereal 4-bromophenyl-lithium solution a solution of 7.5 g. of 4'-hydroxy-propiophenone in 37 ml. of dry tetrahydrofurane is added dropwise, with stirring at a temperature between -50° C. and -40° C. The reaction mixture is stirred at 0° C. for an additional hour, and is then decomposed with a mixture of ice and glacial acetic acid. The aqueous phase is extracted with ether, the ethereal phases are combined, and washed to neutral with water. After drying over anhydrous magnesium sulfate the solvent is distilled off under reduced pressure, and the residue is chromatographed on a silica gel column with a 7:3 mixture of benzene and ethyl acetate as an eluting agent. The solvent is distilled off in vacuo, and the residue is crystallized from a mixture of ethyl acetate and dichloromethane. 4.2 g. of the named compound are obtained, melting at 161° to 162° C.

reactant | 4-bromophenyl-lithium | 0.5 molar | BrC1=CC=C(C=C1)[Li]
reactant | 4'-hydroxy-propiophenone | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Bromo-4'-hydroxy-α-ethyl-benzhydrol | BrC1=CC=C(C(C2=CC=C(C=C2)O)(O)CC)C=C1 | C15H15BrO2
